US06235731B1
3) Synthesis of methyl 4-(4-phenylpiperidino)cyclohexanecarboxylate
A solution of 3.896 g (20.117 mM) of methyl 4-aminocyclohexanecarboxylate hydrochloride, 6.77 g (22.1 mM) of 1,5-dibromo-3-phenylpentane, and 14.0 ml (80.5 mM) of N,N-diisopropylethylamine in 100 ml of acetonitrile was refluxed for one day. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=3/1 to 1/1) to provide the title compound.

reactant | methyl 4-aminocyclohexanecarboxylate hydrochloride | 20.117 mM, 3.896 g | Cl.NC1CCC(CC1)C(=O)OC
reactant | 1,5-dibromo-3-phenylpentane | 22.1 mM, 6.77 g | BrCCC(CCBr)C1=CC=CC=C1 | C11H14Br2
reactant | N,N-diisopropylethylamine | 80.5 mM, 14.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | methyl 4-(4-phenylpiperidino)cyclohexanecarboxylate | C1(=CC=CC=C1)C1CCN(CC1)C1CCC(CC1)C(=O)OC | C19H27NO2
